US07989444B2
Preparation 5: 3-[(3-Chloropropyl)thio]-5-(3,4-difluorophenyl)-4-methyl-4H-1,2,4-triazole
To 5-(3,4-difluorophenyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione (0.4 g, preparation reported in WO 02/40471) in ethanol (6 ml) sodium ethanolate (0.72 ml) was carefully added with stirring followed by 1-bromo-3-chloropropane (0.26 ml). The mixture was heated at 90° C. for 1 h. Acetic acid was added at room temperature until pH=4. After elimination of the solvent under reduced pressure the residue was partitioned between aqueous NaHCO3 (saturated) and DCM. The organic layer was collected and the aqueous phase extracted twice with DCM. The combined DCM layers were concentrated and submitted to column chromatography (EtOAc—acetone gradient) to provide the title compound as white solid (0.36 g).

reactant | 5-(3,4-difluorophenyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 0.4 g | FC=1C=C(C=CC1F)C=1N(C(NN1)=S)C | C9H7F2N3S
reactant | 1-bromo-3-chloropropane | 0.26 ml | BrCCCCl | C3H6BrCl
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-[(3-Chloropropyl)thio]-5-(3,4-difluorophenyl)-4-methyl-4H-1,2,4-triazole | 0.36 g | ClCCCSC1=NN=C(N1C)C1=CC(=C(C=C1)F)F | C12H12ClF2N3S
